US04968829
To a mixture of 4-(1-methylpropylthio)benzenethiol (53.7 g, 271.0 mmol) and potassium carbonate (49.4 g, 358.0 mmol) in DMF under N2 and with stirring is added dropwise 2-bromoethyl acetate (34.0 ml, 298.0 mmol). The mixture is stirred at RT overnight, after which water is added and the mixture is extracted with ether. The combined organic layers are washed with water and brine, dried, the solvent removed and the residue purified by distillation to give 2-[4-(1-methylpropylthio)phenylthio]ethyl acetate. To the acetate (60.9 g, 214.0 mmol) in 200 ml of ethanol is added 50% sodium hydroxide (20 ml). The reaction mixture is stirred at RT for 7 hours and is then neutralized by addition of 10% sulfuric acid and extracted with ether. The organic layer is washed with water and brine, dried and the solvent removed to give 2-[4-(1methylpropylthio)phenylthio]ethanol.

reactant | 4-(1-methylpropylthio)benzenethiol | 271.0 mmol, 53.7 g | CC(CC)SC1=CC=C(C=C1)S | C10H14S2
reactant | potassium carbonate | 358.0 mmol, 49.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl acetate | 298.0 mmol, 34.0 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[4-(1-methylpropylthio)phenylthio]ethyl acetate | C(C)(=O)OCCSC1=CC=C(C=C1)SC(CC)C | C14H20O2S2
